US05112993
Sulfur trioxide (128.0 g, 1.60 mol) was added rapidly to 77.6 g (0.40 mol) of hexafluoro-2,5-dihydrothiophene. After an initial exotherm, the mixture was refluxed for 30 min. and fractionated to give 121.9 g, bp 42°-55° C., shown to be mainly pyrosulfuryl fluoride by 19F NMR, and 29.5 g of crude tetrafluoro-2,5-dihydrothiophene, bp 77°-85° C. Redistillation of this product afforded 16.9 g (25%) of tetrafluoro-2,5-dihydrothiophene-2-one, bp 83° C. IR (CCl4): 1755 (C=O) and 1740 cm-1 (C=C). NMR (CCl4): 19F.0. -92.0 (d of d, JFF 14.7, 5.5 Hz, 2F, CF2), -133.5 (q, JFF 14.3 Hz, 1F, CF), -144.3 (d of t, JFF 13.9, 5.5 Hz, 1F, CF). MS: m/e 171.9615 (M+ ; calcd for C4F4OS, 171.9606), 3.9664 (M+ -CO; cald, 143,9657), 121.9641 (M+ -CF2 ; calcd, 121.9638). Anal. Calcd for C4F4OS: C, 27.91; S, 18.63 Found: C, 28.27; S, 19.16.

reactant | Sulfur trioxide | 1.60 mol, 128.0 g | S(=O)(=O)=O | O3S
reactant | hexafluoro-2,5-dihydrothiophene | 0.40 mol, 77.6 g | FC1(C(=C(C(S1)(F)F)F)F)F | C4F6S
reactant | fluoride | [F-]
reactant | tetrafluoro-2,5-dihydrothiophene | 29.5 g | FC1(C=CC(S1)(F)F)F | C4H2F4S
product | tetrafluoro-2,5-dihydrothiophene-2-one | 16.9 g, 25% | FC1(C(=C(C(S1)=O)F)F)F | C4F4OS
